US05272147
5-[5-(3-Aminopropyl)-2-ethoxyphenyl]-1-methyl-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]-pyrimidin-7-one
A solution of (E)-4-ethoxy-3-(-1-methyl-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]-pyrimidin-5-yl)cinnamonitrile (0.25 g, 0.00064 mol) in glacial acetic acid (25 ml) was stirred with Raney nickel catalyst (25 mg) under hydrogen at room temperature and at 50 p.s.i. for 3 hours. The resulting mixture was filtered and the filtrate evaporated under vacuum. The residue was partitioned between saturated aqueous sodium carbonate solution (50 ml) and dichloromethane (30 ml), the layers separated and the aqueous phase further extracted with dichloromethane (2×30 ml). The organic solutions were combined, dried (Na2SO4) and evaported under vacuum to give a brown solid, crystallisation of which from hexane-ethyl acetate gave the title compound as fawn crystals (96 mg, 38%), m.p. 115°-117° C. Found C,65.29; H,7.35; N,18.66. C20H27N5O2 requires C,65.02; H,7.37; N,18.96%.

reactant | (E)-4-ethoxy-3-(-1-methyl-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]-pyrimidin-5-yl)cinnamonitrile | 0.00064 mol, 0.25 g | C(C)OC1=C(C=C(/C=C/C#N)C=C1)C=1NCC2=C(N1)C(=NN2C)CCC | C20H23N5O
reactant | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
catalyst | Raney nickel | 25 mg | [Ni] | Ni
product | 5-[5-(3-Aminopropyl)-2-ethoxyphenyl]-1-methyl-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]-pyrimidin-7-one | 96 mg, 38% | NCCCC=1C=CC(=C(C1)C=1NC(C2=C(N1)C(=NN2C)CCC)=O)OCC | C20H27N5O2
